US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (300 mg, 1.13 mmol) was treated with tetrahydro-furan-3-ylamine following general procedure B to afford 8-methoxy-4-(tetrahydro-furan-3-ylamino)-quinoline-3-carboxylic acid ethyl ester (275 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid in quantitative yield using general procedure D and then transformed into the corresponding ethylamide (190 mg) following general procedure E. The above ethylamide (0.6 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 3-ethyl-7-methoxy-1-(tetrahydro-furan-3-yl)-1H-pyrimido[5,4-c]quinoline-2,4-dione (10 mg). LCMS: m/z 342 [M+1]+.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 1.13 mmol, 300 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | tetrahydro-furan-3-ylamine | O1CC(CC1)N | C4H9NO
product | 8-methoxy-4-(tetrahydro-furan-3-ylamino)-quinoline-3-carboxylic acid ethyl ester | 275 mg, quantitative yield | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1COCC1)OC | C17H20N2O4
